US06570020B2
1-(1 (RS)-Benzyl-6-bromo-3,4-dihydro-1H-naphthalen-2-ylidene)-pyrrolidinium Bromide
A solution of the bisulfite adduct of bromotetralone (250 grams, 760 mmol) in saturated sodium bicarbonate (1.25 L) and ethyl acetate (2.5 L) was stirred vigorously overnight. Phases were separated and the organic was transferred to a new flask and toluene (1 L) was added. The solution was distilled under reduced pressure to a volume of approximately 500 mL. An additional 500 mL of toluene was added and distilled under reduced pressure to a volume of approximately 300 mL. The solution was cooled to room temperature and pyrrolidine (54.1 grams, 760 mmol) was added. The reaction was heated to 150° C. under Dean-Stark conditions. After 2 hours approximately 13 mL of water was collected and concentration of a small sample showed the reaction was complete by NMR. The toluene solution of pyrrolidine enamine was cooled to 90° C. and benzyl bromide (105 mL, 912 mmol) was added dropwise. After 30 minutes solids began to granulate and the solution became very thick. An additional 500 mL of toluene was added to aid stirring and heating was continued at 90° C. for 2 hours. The slurry was allowed to cool to room temperature and granulate overnight. The solids were filtered and washed with toluene (2 times 500 mL). After drying in a vacuum oven overnight (50° C.) a brown solid was collected: 250 grams (557 mmol), 73% yield; mp 203-205° C.; IR (film) ν 1654, 1596 cm−1; 1H NMR (CDCl3) δ 7.25 (s, 1H), 7.17-7.13 (m, 3H), 7.08 (dd, 1H, J=8.3, 1.7 Hz), 6.98-6.93 (m, 2H), 6.68 (d, 1H, J=8.3 Hz), 4.29 (dd, 1H, J=7.5, 7.5 Hz), 4.25-4.17 (m, 2H), 3.95-3.86 (m, 1H), 3.62-3.49 (m, 2H), 3.27 (dd, 1H, J=13.7, 6.6 Hz), 3.14-3.05 (m, 3H), 2.07-1.95 (m, 3H), 1.92-1.84 (m, 1H); 13 C NMR (CDCl3) δ 189.2, 137.2, 136.1, 132.2, 131.2, 130.9, 130.6, 129.8, 129.2, 127.8, 122.1, 55.1, 55.2, 51.3, 39.3, 34.0, 25.6, 24.9, 24.2. Anal. calcd for C21H22BrN: C, 56.15; H, 5.16; N, 3.12. Found: C, 55.64; H, 5.22; N, 3.22.

reactant | bisulfite | S([O-])(O)=O
reactant | bromotetralone | 760 mmol, 250 grams | BrC1C(C2=CC=CC=C2CC1)=O | C10H9BrO
reactant | pyrrolidine | 760 mmol, 54.1 grams | N1CCCC1 | C4H9N
reactant | benzyl bromide | 912 mmol, 105 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | sodium bicarbonate | 1.25 L | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 2.5 L | C(C)(=O)OCC | C4H8O2
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(1 (RS)-Benzyl-6-bromo-3,4-dihydro-1H-naphthalen-2-ylidene)-pyrrolidinium Bromide | 73% yield | [Br-].C(C1=CC=CC=C1)C1C(CCC2=CC(=CC=C12)Br)=[N+]1CCCC1 | InChI=1S/C21H23BrN.BrH/c22-18-9-10-19-17(15-18)8-11-21(23-12-4-5-13-23)20(19)14-16-6-2-1-3-7-16;/h1-3,6-7,9-10,15,20H,4-5,8,11-14H2;1H/q+1;/p-1
